US04358613
The procedure of Example 4 was repeated, except that the solution of aniline in TMPG was replaced with a solution of n-butylamine (36.6 g, 0.5 mole) in triethylamine (51 g, 0.5 mole). Workup and distillation, as indicated, yielded 72.0 g (0.42 mole) of N"-butyl-N,N,N',N'-tetramethyl guanidine, bp. 31°-32° C. at 0.03 mm, nD22.3 1.4600, which corresponded to 84% yield of the theory.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | n-butylamine | 0.5 mole, 36.6 g | C(CCC)N | C4H11N
reactant | triethylamine | 0.5 mole, 51 g | C(C)N(CC)CC | C6H15N
reactant | TMPG | C1=CC(=CC(=C1)NC2=NC(=O)C3=C(N2)N=CN3)C(F)(F)F | C12H8F3N5O
product | N"-butyl-N,N,N',N'-tetramethyl guanidine | 0.42 mole, 72.0 g, 84% yield | C(CCC)N=C(N(C)C)N(C)C | C9H21N3
